US07732446B1
As described in Example 1, {6,7-dimethoxy-4-[(methyl-pyridin-3-ylmethyl-carbamoyl)-methyl]-isoquinolin-1-ylmethyl}-carbamic acid tert-butyl ester was treated with HCl in EtOAc to give 2-(1-aminomethyl-6,7-dimethoxy-isoquinolin-4-yl)-N-methyl-N-pyridin-3-ylmethyl-acetamide hydrochloride. MS: APCI (M+H) calc'd for C21H24N4O3+H 381.4; found 381.1.

reactant | {6,7-dimethoxy-4-[(methyl-pyridin-3-ylmethyl-carbamoyl)-methyl]-isoquinolin-1-ylmethyl}-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NCC1=NC=C(C2=CC(=C(C=C12)OC)OC)CC(N(CC=1C=NC=CC1)C)=O)=O | C26H32N4O5
reactant | HCl | Cl | ClH
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2-(1-aminomethyl-6,7-dimethoxy-isoquinolin-4-yl)-N-methyl-N-pyridin-3-ylmethyl-acetamide hydrochloride | Cl.NCC1=NC=C(C2=CC(=C(C=C12)OC)OC)CC(=O)N(CC=1C=NC=CC1)C | InChI=1S/C21H24N4O3.ClH/c1-25(13-14-5-4-6-23-11-14)21(26)7-15-12-24-18(10-22)17-9-20(28-3)19(27-2)8-16(15)17;/h4-6,8-9,11-12H,7,10,13,22H2,1-3H3;1H
